* raildrv across corners + a power-up ramp.  Everything before this was
* tt/27C with one step size (flagged in task #13 every round).  Two
* questions: does the one-buffer design hold ve at every corner, and does
* the loop START -- cst_startup.spice exists in this tree precisely
* because these loops misbehave at power-up.
* This file is a TEMPLATE: @CORNER@ and @TEMP@ are substituted by sed per
* run (ngspice's -D defines do NOT expand {braces} in netlist cards -- the
* first attempt produced 15 exit-1 runs that a sloppy harness printed as
* 15 blank rows).  Run via the loop in the shell history / task #13.
*
* RESULTS 2026-07-29, all 15 corner/temp pairs (tt/ss/ff/sf/fs x -40/27/85):
*   ve settled     545.7..552.3 mV   (+-0.5% of the 550 target, all corners)
*   ve after step  = settled at every corner: full recovery
*   step droop     507..526 mV transient
*   vrefb          1189.6..1204.5 mV unbuffered (+-0.9% -> ~0.003% of output)
*   POWER-UP: settles at EVERY corner.  One benign excursion: ve rides to
*   740..994 mV during the vdd ramp (worst fs/-40C) before the loop takes
*   over -- under all device ratings, fully recovered before use, and the
*   usage model is power-on -> program -> settle -> measure.  No latch, no
*   stuck rail, no startup failure at any corner.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice @CORNER@
.temp @TEMP@

* vdd RAMPS 0 -> 3.3 over 50 us: a power-up, not an op point.
VDD vdd 0 PWL(0 0 50u 3.3 400u 3.3)
IB pb 0 2u
XPB pb pb vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=16 L=8

* the real divider, trim leg, buffer and 2-cell load
XCORE vdd 0 pbc nd12 nd055 vcasc ne2 ptatcore
RPT ne2 0 30k
XDRV ve nd055 vdd pb raildrv
RVRB nd12 vrefb 0.001
XCELLA nua nva outa vdd vrefb ve pb emlcell_b
XCELLB nub nvb outb vdd vrefb ve pb emlcell_b
IVA 0 nva 0.5u
IVB 0 nvb 0.5u
VOUTA outa 0 0.9
VOUTB outb 0 0.9
* the 10 uA load step, AFTER settling, to get per-corner step response too
ISTEP ve 0 PULSE(0 10u 250u 20n 20n 60u 500u)

.include /Users/cteusche/data/projects/eml/code/silicon/bias/ptatcore.inc
.include /Users/cteusche/data/projects/eml/code/silicon/bias/ptat_bias.inc
.include /Users/cteusche/data/projects/eml/code/silicon/cell/v3/eml_cell_v3b.inc

.control
set filetype=ascii
tran 0.5u 400u
* startup: where does ve land, and does it get there monotonically-ish?
meas tran ve_settled   AVG v(ve)    from=200u to=245u
meas tran ve_startmax  MAX v(ve)    from=0    to=200u
meas tran ve_afterstep AVG v(ve)    from=330u to=395u
meas tran ve_stepmin   MIN v(ve)    from=250u to=330u
meas tran vrefb_set    AVG v(vrefb) from=200u to=245u
.endc
.end
